US05726195
To a solution of 4-phenoxyphenylacetonitrile (1.16 g) in anhydrous toluene (30 ml) was added trimethylsilylazide (1.1 ml) and dibutyltin oxide (0.19 g). The mixture was heated to reflux for 19 hours then allowed to cool to room temperature. The reaction mixture was then added to 1M sodium hydroxide (100 ml) and washed with diethyl ether (3×50 ml). The aqueous layer was acidified with concentrated hydrochloric acid (30 ml) then washed with 5:1 ethyl acetate/tetrahydrofuran (60 ml) and ethyl acetate (2×50 ml). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to give 5-(4-phenoxyphenylmethyl)-1H-tetrazole as a white solid.

reactant | 4-phenoxyphenylacetonitrile | 1.16 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC#N | C14H11NO
reactant | trimethylsilylazide | 1.1 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.19 g | C(CCC)[Sn](CCCC)=O
reactant | sodium hydroxide | 1M, 100 ml | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-phenoxyphenylmethyl)-1H-tetrazole | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC1=NN=NN1 | C14H12N4O
